US05965743
1.5 g of 4-(3-benzenesulfonylpropyloxy)benzyl alcohol were dissolved in 30 ml of chloroform, and the resultant solution was further fed dropwise with 0.7 g of thionyl chloride and then stirred for 1 hour at room temperature. After completed the reaction, the solution reacted was poured into ice-water and extracted with chloroform. The organic layer resulted was dried with anhydrous magnesium sulfate, and the solvent used was removed by distillation under reduced pressure, thereby affording 1.6 g of 4-(3-benzenesulfonylpropyloxy)benzyl chloride.

reactant | 4-(3-benzenesulfonylpropyloxy)benzyl alcohol | 1.5 g | C1(=CC=CC=C1)S(=O)(=O)CCCOC1=CC=C(CO)C=C1 | C16H18O4S
reactant | thionyl chloride | 0.7 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-benzenesulfonylpropyloxy)benzyl chloride | 1.6 g | C1(=CC=CC=C1)S(=O)(=O)CCCOC1=CC=C(CCl)C=C1 | C16H17ClO3S
